US08106212B2
At 0° C., 10.5 ml of cyclopropylamine (149.9 mmol) are added dropwise to 10.0 g of tetronic acid (99.9 mmol) in 57 ml of acetic acid, and the mixture is stirred at 120° C. for 2 h. After addition of 200 ml of toluene, the mixture is heated under reflux on a water separator for 3 hours. The reaction mixture is concentrated under reduced pressure and the residue is partitioned between 2.5 N of aqueous sodium hydroxide solution and dichloromethane. The aqueous phase is extracted a few more times with dichloromethane and the combined organic phases are dried over sodium sulphate. Concentration of the organic phase under reduced pressure and purification of the residue by recrystallization from ethanol gives 5.2 g (37% of theory) of 4-(cyclopropylamino)furan-2(5H)-one.

reactant | cyclopropylamine | 149.9 mmol, 10.5 ml | C1(CC1)N | C3H7N
reactant | tetronic acid | 99.9 mmol, 10.0 g | C1C(=O)COC1=O | C4H4O3
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
reactant | water | O | H2O
solvent | acetic acid | 57 ml | C(C)(=O)O | C2H4O2
product | 4-(cyclopropylamino)furan-2(5H)-one | 5.2 g, 37% | C1(CC1)NC1=CC(OC1)=O | C7H9NO2
